data/polar.json
{"reaction_name": "Thiazolidine formation", "rsmi": "[CH2:1]([S:5][H:9])[CH2:7][NH:4][H:8].[O:2]=[CH:6][CH3:3]>>[CH2:1]1[S:5][CH:6]([CH3:3])[NH:4][CH2:7]1.[O:2]([H:8])[H:9]", "epd": [["LP-/Sigma+", [5], [5, 6]], ["Sigma-/LP+", [2, 6], [2]], ["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [4, 8], [4]], ["LP-/Sigma+", [4], [4, 6]], ["Pi-/LP+", [2, 6], [2]], ["LP-/Sigma+", [2], [2, 9]], ["Sigma-/LP+", [5, 9], [5]]]}
{"reaction_name": "Nitro-activated aryl fluoride displacement", "rsmi": "[O-:4][CH3:6].[cH:1]1[c:3]([N+:5](=[O:7])[O-:11])[cH:2][cH:10][c:8]([F:12])[cH:9]1>>[F-:12].[cH:1]1[c:3]([N+:5](=[O:7])[O-:11])[cH:2][cH:10][c:8]([O:4][CH3:6])[cH:9]1", "epd": [["LP-/Sigma+", [4], [4, 8]], ["Sigma-/LP+", [8, 12], [12]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:12])=[C:28]([Cl:8])[C:29]([Cl:22])=[C:5]([Cl:19])[C:27]([Cl:2])([Cl:3])[C:9]1=[O:14].[cH:4]1[cH:15][cH:6][c:21]([C:17](=[C:10]2[N:11]([CH3:25])[C:18]([CH3:24])=[C:30]([CH3:26])[S:20]2)[O:23][CH3:13])[cH:7][cH:16]1>>[Cl:2][C:17]([c:10]1[n+:11]([CH3:25])[c:18]([CH3:24])[c:30]([CH3:26])[s:20]1)([c:21]1[cH:6][cH:15][cH:4][cH:16][cH:7]1)[O:23][CH3:13].[c:1]1([Cl:12])[c:9]([O-:14])[c:27]([Cl:3])[c:5]([Cl:19])[c:29]([Cl:22])[c:28]1[Cl:8]", "epd": [["LP-/Pi+", [11], [10, 11]], ["Pi-/Sigma+", [17, 10], [17, 2]], ["Sigma-/Pi+", [2, 27], [27, 9]], ["Pi-/LP+", [9, 14], [14]]]}
{"reaction_name": "Alcohol-to-halide conversion", "rsmi": "[CH3:3][CH2:6][O:4][H:5].[Cl:1][H:2]>>[Cl:1][CH2:6][CH3:3].[H:2][O:4][H:5]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [2, 4]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "Borane–amine adduct formation", "rsmi": "[BH3:1].[NH3:2]>>[BH3-:1][NH3+:2]", "epd": [["LP-/Sigma+", [2], [1, 2]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[S:1]([c:4]1[cH:15][cH:8][cH:6][cH:9][cH:16]1)([O-:5])=[O:12].[cH:2]1[cH:3][cH:11][cH:14][cH+:7][cH:13][cH:10]1>>[S+:1]([c:4]1[cH:15][cH:8][cH:6][cH:9][cH:16]1)([O-:5])([CH:7]1[CH:13]=[CH:10][CH:2]=[CH:3][CH:11]=[CH:14]1)=[O:12]", "epd": [["LP-/Sigma+", [1], [1, 7]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:3]1([Cl:13])=[C:29]([Cl:10])[C:30]([Cl:17])=[C:9]([Cl:16])[C:27]([Cl:4])([Cl:5])[C:11]1=[O:15].[cH:1]1[c:23]([CH:12]=[C:18]2[S:7][c:21]3[cH:19][cH:8][cH:14][cH:6][c:20]3[N:28]2[CH3:22])[cH:2][cH:25][cH:26][cH:24]1>>[c:3]1([Cl:13])[c:11]([O-:15])[c:27]([Cl:5])[c:9]([Cl:16])[c:30]([Cl:17])[c:29]1[Cl:10].[cH:1]1[c:23]([CH:12]([Cl:4])[c:18]2[s:7][c:21]3[cH:19][cH:8][cH:14][cH:6][c:20]3[n+:28]2[CH3:22])[cH:2][cH:25][cH:26][cH:24]1", "epd": [["LP-/Pi+", [28], [18, 28]], ["Pi-/Sigma+", [12, 18], [12, 4]], ["Sigma-/Pi+", [4, 27], [27, 11]], ["Pi-/LP+", [11, 15], [15]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:2][CH2:15][c:16]1[c:6]([CH3:18])[cH:7][nH:12][c:11]1[CH3:5].[cH:1]1[cH:3][cH:13][c:10]([N+:8](=[CH2:9])[CH3:17])[cH:14][cH:4]1>>[cH:1]1[cH:3][cH:13][c:10]([N:8]([CH2:9][CH:7]2[C:6]([CH3:18])=[C:16]([CH2:15][CH3:2])[C:11]([CH3:5])=[NH+:12]2)[CH3:17])[cH:14][cH:4]1", "epd": [["LP-/Pi+", [12], [11, 12]], ["Pi-/Pi+", [16, 11], [6, 16]], ["Pi-/Sigma+", [7, 6], [7, 9]], ["Pi-/LP+", [9, 8], [8]]]}
{"reaction_name": "Neighboring amide participation", "rsmi": "[CH2:1]([CH2:2][NH:6][C:4]([CH3:5])=[O:7])[Br:3].[Cl-:8]>>[Br-:3].[CH2:1]([CH2:2][NH:6][C:4]([CH3:5])=[O:7])[Cl:8]", "epd": [["LP-/Sigma+", [8], [1, 8]], ["Sigma-/LP+", [1, 3], [3]]]}
{"reaction_name": "S-Glycosylation sequence", "rsmi": "[CH2:1]1[CH2:2][CH2:7][O:3][CH:4]([Cl:10])[CH2:9]1.[H:5][S:6][CH3:8]>>[CH2:1]1[CH2:2][CH2:7][O:3][CH:4]([S:6][CH3:8])[CH2:9]1.[H:5][Cl:10]", "epd": [["LP-/Sigma+", [6], [4, 6]], ["Sigma-/LP+", [4, 10], [10]], ["LP-/Sigma+", [10], [5, 10]], ["Sigma-/LP+", [5, 6], [6]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:15][CH3:14])[c:18]1[cH:10][cH:8][cH:5][cH:9][cH:11]1.[nH:1]1[c:3]([O-:6])[cH:13][c:7](=[O:12])[nH:16][c:4]1=[O:17]>>[NH:1]1[C:3](=[O:6])[CH:13]([CH:2]([O:15][CH3:14])[c:18]2[cH:10][cH:8][cH:5][cH:9][cH:11]2)[C:7](=[O:12])[NH:16][C:4]1=[O:17]", "epd": [["LP-/Pi+", [6], [3, 6]], ["Pi-/Sigma+", [13, 3], [13, 2]], ["Pi-/LP+", [2, 15], [15]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:17][CH3:16])[c:18]1[cH:13][cH:11][cH:8][cH:12][cH:14]1.[c:1]1([CH:9]=[N+:7]=[N-:15])[cH:5][cH:3][cH:10][cH:4][cH:6]1>>[c:1]1([CH:9]([CH:2]([O:17][CH3:16])[c:18]2[cH:13][cH:11][cH:8][cH:12][cH:14]2)[N+:7]#[N:15])[cH:5][cH:3][cH:10][cH:4][cH:6]1", "epd": [["LP-/Pi+", [15], [7, 15]], ["Pi-/Sigma+", [9, 7], [9, 2]], ["Pi-/LP+", [2, 17], [17]]]}
